US05792767
2-Amino-4-carbamylbenzoic acid
2-amino-4Cyanobenzoic acid (3.01 g, 18.3 mmol), prepared by the method of Chan and Bruice, J. Am. Chem. Soc., 99: 6721 (1977), was dissolved in 60 mL of 97% H2SO4 and heated to 45° C. for 12 h. The mixture was added to ice, and saturated Na2CO3 solution was added to adjust the pH=3. The mixture was then filtered, and the yellow solid lyophilized to yield the title compound (2.94 g, 89%): mp 276°-278° C. 1H NMR (300 MHz, DMSO-d6) δ 8.72 (br s, 3H), 7.90 (br s, 1H), 7.71 (d, 1H), 7.37 (br s, 1H), 7.21 (d, 1H), 6.92 (dd, 1H), 6.75 (br s, 2H); MS (DCI/NH3) m/z 181 (M+H)+.

reactant | 2-amino-4Cyanobenzoic acid | 18.3 mmol, 3.01 g | NC1=C(C(=O)O)C=CC(=C1)C#N | C8H6N2O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
product | 2-Amino-4-carbamylbenzoic acid | 2.94 g, 89% | NC1=C(C(=O)O)C=CC(=C1)C(N)=O | C8H8N2O3
